US09227967B2
3-Fluoro-4-[(oxolan-3-yl)carbonyl]pyridine
Diisopropylamine (605 μL, 4.30 mmol) was dissolved in THF (8 mL) and cooled to −78° C. nBuLi (1.72 mL, 2.5 M in hexanes, 4.30 mmol) was added and the resulting solution was stirred for 10 min, warmed to room temperature for 30 min and re-cooled to −78° C. 3-Fluoro-pyridine (370 μL, 4.30 mmol) was added drop-wise and the reaction mixture was stirred for 2 h. A solution of N-methoxy-N-methyloxolane-3-carboxamide (685 mg, 4.30 mmol) in THF (4.2 mL) was added drop-wise and the reaction mixture was warmed to room temperature and stirred for 15 min. The reaction mixture was quenched with sat aq NH4OAc (5 mL), diluted with EtOAc (50 mL), washed with water (2×25 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by normal phase column chromatography to give the title compound as a yellow gum (61.0 mg, 10%). LCMS (ES+): 196.0 (M+H)+.

reactant | Diisopropylamine | 4.30 mmol, 605 μL | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 4.30 mmol, 2.5 M, 1.72 mL | [Li]CCCC
reactant | 3-Fluoro-pyridine | 4.30 mmol, 370 μL | FC=1C=NC=CC1 | C5H4FN
reactant | N-methoxy-N-methyloxolane-3-carboxamide | 4.30 mmol, 685 mg | CON(C(=O)C1COCC1)C | C7H13NO3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 4.2 mL | C1CCOC1 | C4H8O
product | 3-Fluoro-4-[(oxolan-3-yl)carbonyl]pyridine | 61.0 mg, 10% | FC=1C=NC=CC1C(=O)C1COCC1 | C10H10FNO2
